US03953499
To 15 ml. of n-butanol under nitrogen was added 211 mg. of sodium in pieces. The mixture was heated gently until all the sodium had dissolved, then 1.2 ml. of diethylmalonate was added and the mixture was refluxed one hour, then cooled, and a solution of 2.0 g. of 1-chloro-cis,cis,cis-7,10,13-nonadecatriene in 7.5 ml. of n-butanol was added. The resulting reaction mixture was refluxed for 3 hrs. under nitrogen, then allowed to stand for about 20 hrs., and concentrated under reduced pressure. The thus obtained residue was dissolved in a solution of 1.9 g. of potassium hydroxide in 38 ml. of 95% ethanol and heated under reflux for 3.5 hrs., then was concentrated to about 1/3 volume, diluted with water, and extracted with ether. The ether solution was extracted with 1N aqueous sodium hydroxide. The sodium hydroxide solution was made acid with 3N hydrochloric acid and extracted twice with ether. The ether extracts were washed with water, then with saturated aqueous sodium chloride, dried over sodium sulfate, and evaporated to give 1.72 g. of a pale yellow oil. The thus obtained oil was heated in a short path distillation tube at 140°C. under reduced pressure until decarboxylation was complete, then was distilled at a bath temperature of 180°-200°/0.006 mm., thus obtaining a distillate comprising cis,cis,cis-9,12,15-heneicosatrienoic acid.

reactant | sodium | [Na] | Na
reactant | diethylmalonate | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 1-chloro-cis,cis,cis-7,10,13-nonadecatriene | ClCCCCCC\C=C/C\C=C/C\C=C/CCCCC | C19H33Cl
solvent | n-butanol | C(CCC)O | C4H10O
product | cis,cis,cis-9,12,15-heneicosatrienoic acid | C(CCCCCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C21H36O2
